US04604390
3-[2-[[2-[2-(Diethylamino)ethyl]-2H[1]benzothiopyrano-[4,3,2-cd]indazol-5-yl]amino]ethyl]-2-oxazolidinone
A mixture of 5.8 g 0.017 mol) of 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine and 5.1 g (0.034 mol) of 3-(2-chloroethyl)-2-oxazolidinone was stirred at 150° C. for two hours, dissolved in 100 ml of CHCl3 and washed twice with 2N NaOH. The solution was dried (MgSO4) and concentrated in vacuo to dryness. The residue was flash chromatographed over silica gel, eluting with a CHCl3 /MeOH (4/1) mixture. The appropriate fractions were combined and concentrated to dryness in vacuo. The residue was treated with 20 ml of acetone and the resulting suspension was treated with 150 ml of Et2O. The resulting precipitate was collected and dried to give 4.9 g of product, mp 90°-94° C.

reactant | 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | C19H22N4S
reactant | 3-(2-chloroethyl)-2-oxazolidinone | 0.034 mol, 5.1 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-[[2-[2-(Diethylamino)ethyl]-2H[1]benzothiopyrano-[4,3,2-cd]indazol-5-yl]amino]ethyl]-2-oxazolidinone | 4.9 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN1C(OCC1)=O)SC1=C2C=CC=C1)CC | C24H29N5O2S
